Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bradycardia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ y.o. ___ woman with H/O 
hypertension, hyperlipidemia, type diabetes mellitus, prior 
bradycardia and reported prior stroke who presents from her PCP 
office for bradycardia. 

The following information was obtained via ___ 
interpreter, patient, and daughter. There were no records from 
___ (where she has been hospitalized previously) available. 

Patient reported a cough productive of white phlegm beginning ~1 
week ago. In the past 3 days, she felt the cough was getting 
worse. She denied fevers, chills, night sweats and denied any 
sick contacts. Additionally, she reported having mid, 
sub-sternal chest pain beginning ~3 days ago in conjunction with 
worsening cough. The pain was intermittent, and she 
characterized it as "sharp, tight" that occurs throughout the 
day, non-positional, not associated with exertion, and if 
anything, occurs after she eats. At times, the pressure would 
radiate to her back. She said she had a similar chest pain ___ 
year ago as well, requiring ___ ED evaluation. Daughter says she 
may have "blocked vessel." 

She subsequently presented to her PCP who found her to be 
bradycardic (patient cannot recall actual value and no PCP 
records available at time of admission). Of note, she took her 
amlodipine this morning for BP and has been on this medication 
for years. She was subsequently sent to ___ ED for further 
evaluation. 

In the ED, initial VS: T 98.7, HR 32, BP 137/77, RR 18, SpO2 98% 
on RA. HR thereafter ranged from ~30s to 58. Exam was 
unremarkable. Labs were notable for WBC 10.6, Mg 1.6, for which 
she received MgSO4 2 gm IV. proBNP 237. Troponin-T was negative 
twice. Initial EKG showed sinus bradycardia, VR 37 bpm with 
junctional rhythm. CXR showed cardiomegaly with possible 
vascular congestion.   She was seen by the Electrophysiology 
Service who felt junctional rhythm and bradycardia were due to 
cough with dry heaves. She was also seen by Cardiology who felt 
low suspicion for ACS.

After arrival to the cardiology ward, she reported the chest 
pain had improved, as she has not eaten. Again, she said the 
pain is worse after meals. She reported an ongoing cough, but 
denied dyspnea, palpitations, possible infectious insult, 
thyroid disease, OSA, known prior h/o infilitrative or systemic 
disease aside from those mentioned.
 
Past Medical History:
1. CAD RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- prior h/o bradycardia 

3. OTHER PAST MEDICAL HISTORY  
- reported prior h/o stroke 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
On admission
GENERAL: Middle aged ___ Asian woman in NAD. 
24 HR Data (last updated ___ @ ___ Temp: 98.1 (Tm 98.1), 
BP: 155/77 (155-189/77-91), HR: 58, RR: 20, O2 sat: 95%, O2 
delivery: RA
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: JVP flat.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: CTAB.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

At discharge
GENERAL: In NAD.
VS: ___ 1113 Temp: 97.9 PO BP: 160/73 R Lying HR: 69 RR: 20 
O2 sat: 96% O2 delivery: RA FSBG: 108
HEENT: Normocephalic atraumatic. Sclera anicteric.
NECK: No JVD
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: CTAB.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
 
Pertinent Results:
___ 05:50AM BLOOD WBC-7.2 RBC-4.84 Hgb-14.0 Hct-43.9 MCV-91 
MCH-28.9 MCHC-31.9* RDW-12.8 RDWSD-42.2 Plt ___
___ 05:50AM BLOOD Neuts-56.4 ___ Monos-6.5 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-4.06 AbsLymp-2.42 AbsMono-0.47 
AbsEos-0.18 AbsBaso-0.04

___ 05:50AM BLOOD Glucose-124* UreaN-20 Creat-0.6 Na-141 
K-4.1 Cl-104 
HCO3-25 AnGap-12
___ 05:50AM BLOOD Calcium-9.5 Phos-3.8 Mg-1.7
___ 10:49PM BLOOD Lactate-1.3

___ 05:50AM BLOOD cTropnT-<0.01
___ 10:45PM BLOOD cTropnT-<0.01

___ 08:00AM BLOOD TSH-5.8*
___ 08:00AM BLOOD T4-6.6 T3-113 Free T4-1.2
___ 08:00AM BLOOD Lyme Ab-NEG

ECG ___ 14:20:56
Junctional rhythm. Ventricular premature complex. Ventricular 
rate 37. No previous ECGs available

ECG ___ 19:10:47
Sinus bradycardia. Consider Early repolarization. Otherwise 
normal ECG When compared with ECG of ___ 22:34, PREVIOUS 
ECG IS PRESENT. hr incr, jnl bts not seen

Chest X-Ray ___
Lung volumes are low with secondary bronchovascular crowding. 
Possible mild superimposed vascular congestion. No focal 
consolidation or significant effusion. Cardiac enlargement is 
similar compared to prior.
IMPRESSION: Cardiomegaly with possible vascular congestion. 

Echocardiogram ___
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 63 % 
(normal 54-73%). There is no resting left ventricular outflow 
tract gradient. There is Grade I diastolic dysfunction. Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender with a normal 
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta diameter. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
IMPRESSION: Normal study. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure.

DISCHARGE LABS
___ 08:00AM BLOOD WBC-6.9 RBC-4.87 Hgb-14.3 Hct-44.3 MCV-91 
MCH-29.4 MCHC-32.3 RDW-12.8 RDWSD-42.3 Plt ___
___ 08:00AM BLOOD ___ PTT-28.1 ___
___ 08:00AM BLOOD Glucose-171* UreaN-20 Creat-0.7 Na-145 
K-4.1 Cl-105 HCO3-27 AnGap-13
___ 08:00AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.0
 
Brief Hospital Course:
Ms ___ is a ___ y.o. ___ woman with H/O 
hypertension, hyperlipidemia, type 2 diabetes mellitus, prior 
bradycardia and reported prior stroke who presented from PCP 
office for asymptomatic bradycardia without evidence to suggest 
an ischemic etiology.

# Asymptomatic bradycardia: Patient was noted to have HR ___ 
with EKG demonstrating junctional rhythm with occasional PVCs. 
She was evaluated by Electrophysiology in the ED without 
recommendation for pacemaker. Her troponin-T was negative x 3 
with non-ischemic EKG arguing against ACS as an etiology. 
Echocardiogram was normal. Her bradycardia was likely 
exacerbated by increased vagal tone in setting of her cough with 
possible contribution from amlodipine. TSH mildly elevated to 
5.8, free T4 and T3 were normal. Lyme Ab ultimately returned 
negative. Cardiology follow up recommended on discharge. A 
Ziopatch was placed on discharge to assess arrhythmia burden.

# Acute on chronic cough: Patient reported a chronic cough which 
was worse in the last week productive of white phlegm. This was 
likely related to GERD with possible additional component of a 
viral illness or allergic rhinitis. She was provided with 
prescriptions for benzonatate and guaifenesin on discharge. 

# Chest Pain: Patient endorsed chest pain for years, worse in 
the last week since her cough began. History of mild 
atherosclerosis and slow flow on coronary angiogram in ___ at ___ during evaluation for chest pain. Features were 
atypical for ischemia with absence of troponin elevation or EKG 
changes that would have suggested ACS. Given relationship with 
eating and improvement with Maalox, suspect this is likely GERD. 
She was continued on famotidine, Maalox and omeprazole.

# Hypertension: BP elevated at admission. Amlodipine was stopped 
in setting of bradycardia (a reported side effect) and losartan 
was increased to 100 mg daily.

# CAD: Coronary angiography at ___ in ___ with 
non-obstructive CAD per above. Continue ASA 81 mg daily, 
atorvastatin 40 mg qhs, losartan increased to 100 mg daily.

CHRONIC ISSUES: 
# Type 2 diabetes mellitus: Held home metformin 500 mg bid and 
maintained on HISS. Metformin restarted on discharge. 

# Hyperlipidemia: Continued atorvastatin as above

TRANSITIONAL ISSUES:
[] Recommend follow up with Dr. ___ cardiology at ___ 
___, appointment scheduled for ___.
[] Losartan was increased to 100 mg daily. Amlodipine was 
discontinued. Please titrate BP meds further as needed for 
anti-hypertensive management.
[] Overnight desaturation was noted while sleeping. Please 
consider further evaluation with a sleep study. 
[] Consider ETT to assess for exercise induced hypotension or 
arrhythmia.
[] Ziopatch placed on discharge to evaluate arrhythmia burden
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Famotidine 20 mg PO BID 
3. Aspirin EC 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. amLODIPine 10 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
7. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
8. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
indigestion 
9. GuaiFENesin-CODEINE Phosphate ___ mL PO Q6H:PRN throat pain
 
Discharge Medications:
1.  Benzonatate 200 mg PO TID cough 
RX *benzonatate 200 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
2.  Losartan Potassium 100 mg PO DAILY 
RX *losartan 100 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
indigestion  
4.  Aspirin EC 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Famotidine 20 mg PO BID  
7.  GuaiFENesin-CODEINE Phosphate ___ mL PO Q6H:PRN throat pain
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth Every 6 
hours as needed Refills:*0 
8.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Sinus bradycardia with junctional escape rhythm
-Cough
-Gastroesophageal reflux disease
-Hypertension
-Hyperlipidemia
-Nocturnal hypoxemia with desaturation
-Prior stroke
-Type 2 diabetes mellitus
-Chronic kidney disease, stage 2
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___.

___ was I admitted?
- You came to the hospital because you were found to have slow 
heart rate

What was done while I was here?
- Your heart was monitored and we did not find any signs of a 
dangerous cause for your slow heart rate.
- We changed your blood pressure medications to see if it would 
help with your heart rate. Please review your medication list 
carefully below.
- You were given medications to help with your cough.

What should I do when I get home?
- Please take all of your medications as prescribed.
- Please go to all of your follow up appointments as listed 
below. 
- Please weigh yourself every day and let your doctor know if 
your weight goes up by more than 3 lbs in 1 day or 5 lbs in 1 
week.

We wish you the best!

- Your ___ Team 
 
Followup Instructions:
___